Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Aleve
 
Attending: ___.
 
Chief Complaint:
syncope, NSTEMI transfer from ___
 
Major Surgical or Invasive Procedure:
PCI with DES to LAD ___

Cardiac angiogram ___

 
History of Present Illness:
Mr. ___ is a ___ yo male with DLBCL s/p recent da-EPOCH and 
2
cycles of RCHOP, CAD s/p prior PCI ___ at ___, 4 BMS to
dominant RCA, 50% stenosis of ___ LAD, 50% ostial of OM1. No
LMCA disease), PAD, CKD, DM2, HTN who presented to ___ via EMS
for syncope found to have NSTEMI. 

Patient was recently discharged from the ___ service on ___ 
after
a long hospital course c/b loculated pleural effusion s/p chest
tube, PICC associated DVT, E. coli bacteremia, VRE UTI, and left
vocal cord paralysis. After discharge, he states he was feeling
fine until ___ afternoon. He recalls walking towards the
kitchen but cannot recall the events thereafter until he was in
the ambulance leaving ___ coming to ___. Per patient's wife, 
he
passed out at home at which time she called EMS. While en route
to ___, patient had large volume emesis and had another bout in
the ED at ___. At the ED at ___, patient was given Zofran and
IVF. An EKG reportedly had ST elevation and Q waves septally and
troponin was elevated to 1.46. At that time, patient was
transferred to ___ for further management.

In the ED: 
Initial VS:T 98.2 HR113 BP 119/81 RR 18 SaO2 96% RA

Exam:
General: no acute distress
HEENT: Normal oropharynx, no exudates/erythema
Cardiac: RRR , no chest tenderness
Pulmonary: Diffuse rhonchi bilaterally
Abdominal/GI: Normal bowel sounds, no tenderness or masses
Renal: No CVA tenderness
MSK: No deformities or signs of trauma, no focal deficits noted
Neuro: Sensation intact upper and lower extremities, strength 
___
upper and lower, no focal deficits noted, moving all extremities
Extremities: Right upper extremity edema

EKG:NSR, HR 116, left axis deviation, normal intervals, no
STE/STD

Labs notable for: WBC: 11.5/ Hgb 7.2 -> 6.7 / Mg 1.5 / CK 22 / 
MB
2 / Cr 1.7 ->1.6 / trop 1.39 ->1.34 / 

Studies notable for:
- CTA Chest negative for PE
- TTE notable for reduced EF 35% from 65% with possible distal
LAD terrtory regionality. 

Consults: 
Cardiology initially saw patient and thought given lack of CP,
hemodynamic instability or ischemic EKG changes, there was no
urgent indication for angiography. They recommended a TTE and
upon seeing the reduced EF with WMA, patient was taken to cath
given likely NSTEMI. 

Patient was given prior to cath lab: 
- Full dose aspirin
- Heparin gtt
- metop succinate 25mg 
- plavix
- nifedipine 
= 500cc IVF x 2

In the cath lab, did R radial approach demonstrating diffuse
disease. Patient was given additional 400cc IVF given concern 
for
CKD. 

Patient denies chest pain through out the course described 
above.
Denies dyspnea, fevers, chills, abdominal pain, leg swelling.
Endorses chronic wheeze since one of his vocal cords were
paralyzed. On arrival to the floor, patient reports that he 
feels
great but is confused. He says he was suppose to get a procedure
today but cannot recall what the procedure was. Patient states
feeling overwhelmed by being in the hospital again. 

REVIEW OF SYSTEMS:  
Positive per HPI.  
All of the other review of systems were negative.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
PCI: 
___ at ___, 4 BMS to dominant RCA, 50% stenosis of ___ LAD,
50% ostial of OM1. No LMCA disease.
- Rhythm? Sinus  
3. OTHER PAST MEDICAL HISTORY  
- Lymphoma s/p C2 RCHOP
- Chronic Renal Insufficiency
- Anemia of chronic kidney disease 
- Coronary Artery Disease 
- Diabetes Mellitus Type 2 
- Hypertension
- Hyperlipidemia
- Peripheral Arterial Disease status-post left leg bypass 
surgery
- Osteomyelitis status-post amputation of left foot toes 
- Iron deficiency
- Restless leg syndrome, on Sinemet
- Obstructive Sleep Apnea 
- Squamous cell cancer of skin status-post amputation of middle
finger in ___
- Multiple basal cell skin cancers 

PAST ONCOLOGIC HISTORY:  
~ ___: In ___ started to have fatigue, weakness, falls,
dizziness. 
- ___: Admitted to ___ with hoarseness and
cough. CT chest shows an irregular mass-like density in the left
infrahilar region, measuring up to 6.5 cm in diameter, as well 
as
multiple nodular opacities in the right lower lobe, irregular
pleural thickening in the left hemithorax, numerous markedly
enlarged mediastinal and bilateral hilar lymph nodes with a 
large
conglomerate in the precarinal region, and multiple markedly
enlarged right axillary lymph nodes. 
- ___: Evaluated by Dr. ___ Hematology/Oncology, who
recommends biopsy. 
- ___: Undergoes thoracentesis and possible right axillary
lymph node biospy at ___. Per report this
demonstrates Diffuse Large B Cell Lymphoma with rearrangements 
in
MYC, BCL2, and BCL6, i.e. "Triple Hit" DLBCL. 
- ___: Discharged to home on prednisone taper. 
- ___: PET scan at ___ reveals pronounced
uptake within extensive supraclavicular, internal mammary,
mediastinal, hilar, paraesophageal, left epicardial, mesenteric,
and retroperitoneal lymph nodes consistent with malignancy.
Uptake is also seen within nodular pleural-based soft tissue in
the left hemithorax. Small left pleural effusion. Uptake within 
a
small left upper lobe nodule. Small area of uptake within the
mesentery of the pelvis, with some apparent misregistration of
PET and CT images in this region.  Uptake as a tubular 
appearance
and may correspond to small bowel.  Lymphoma involvement of 
small
bowel may be present. Atherosclerotic changes. 
- ___: Port-a-Cath placed at ___. 
- ___: Referred to ___.
- ___: Initial evaluation by Dr. ___ the ___
team at ___. Admitted for expedited evaluation and management. 

 
Social History:
___
Family History:
Per previous notes, sister died of ___.
Father died of heart failure at age ___. Mother died of heart and
lung issues at age ___. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
VS: 24 HR Data (last updated ___ @ ___
    Temp: 97.9 (Tm 97.9), BP: 106/64 (106-115/60-70), HR: 112
(112-114), RR: 19, O2 sat: 97% (92-97)  
GENERAL: Well developed, well nourished male in NAD. Oriented 
x2.
Mood- frightful/anxious. 
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP 12cm.  
CHEST: portacath in anterior R wall
CARDIAC: Tachycardic, regular rhythm, no m/r/g
LUNGS: Diffuse rhonci bilaterally, wheezing, bibasilar crackles
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: 2+ pitting edema of the b/l ___ to the knees. Warm,
well perfused. 
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM
==========================
___ 0341 Temp: 97.8 PO BP: 102/60 HR: 98 RR: 18 O2 sat: 
100%
O2 delivery: Ra 
Gen: Alert and oriented, elderly male, sitting up in bed
comfortably, in no acute distress 
HEENT: Improved, somewhat hoarse voice with good phonation, 
moist
mucous membranes
LUNGS: Coarse breath sounds bilaterally, decreased breath sounds
at L lower base
CV: RRR, no r/g/m
ABD: Soft, nontender, nondistended 
EXT: Mild ___ edema, bruising throughout
NEURO: Alert with appropriate conversation, linear thought,
fluent speech. CN grossly intact. 
ACCESS: PORT dressing c/d/i

 
Pertinent Results:
ADMISSION LABS
=======================
___ 02:24PM   GLUCOSE-241* UREA N-27* CREAT-1.6* SODIUM-142 
POTASSIUM-4.3 CHLORIDE-106 TOTAL CO2-21* ANION GAP-15
___ 02:24PM   estGFR-Using this
___ 02:24PM   CALCIUM-8.0* PHOSPHATE-3.1 MAGNESIUM-1.6
___ 02:24PM   WBC-6.7 RBC-2.30* HGB-6.7* HCT-21.5* MCV-94 
MCH-29.1 MCHC-31.2* RDW-15.5 RDWSD-50.9*
___ 02:24PM   NEUTS-94* LYMPHS-6* MONOS-0* EOS-0* BASOS-0 
AbsNeut-6.30* AbsLymp-0.40* AbsMono-0.00* AbsEos-0.00* 
AbsBaso-0.00*
___ 02:24PM   POIKILOCY-1+* OVALOCYT-1+* TEARDROP-1+* 
ACANTHOCY-1+* RBCM-SLIDE REVI
___ 02:24PM   PLT SMR-NORMAL PLT COUNT-161
___ 02:24PM   ___ PTT-77.5* ___
___ 02:00AM   cTropnT-1.34*
___ 12:36AM URINE  HOURS-RANDOM
___ 12:36AM URINE  UHOLD-HOLD
___ 12:36AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:36AM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:36AM URINE  RBC-2 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 12:36AM URINE  MUCOUS-RARE*
___ 10:44PM   LACTATE-1.1
___ 10:27PM   GLUCOSE-45* UREA N-33* CREAT-1.7* SODIUM-146 
POTASSIUM-4.1 CHLORIDE-109* TOTAL CO2-23 ANION GAP-14
___ 10:27PM   ALT(SGPT)-19 AST(SGOT)-16 CK(CPK)-22* ALK 
PHOS-115 TOT BILI-0.4
___ 10:27PM   LIPASE-6
___ 10:27PM   cTropnT-1.39*
___ 10:27PM   CK-MB-2
___ 10:27PM   ALBUMIN-2.9* CALCIUM-8.2* PHOSPHATE-3.4 
MAGNESIUM-1.5*
___ 10:27PM   WBC-11.5* RBC-2.45* HGB-7.2* HCT-22.8* MCV-93 
MCH-29.4 MCHC-31.6* RDW-15.3 RDWSD-49.4*
___ 10:27PM   NEUTS-96* BANDS-1 LYMPHS-2* MONOS-1* EOS-0* 
BASOS-0 AbsNeut-11.16* AbsLymp-0.23* AbsMono-0.12* AbsEos-0.00* 
AbsBaso-0.00*
___ 10:27PM   POIKILOCY-1+* SCHISTOCY-1+* RBCM-SLIDE REVI
___ 10:27PM   PLT SMR-NORMAL PLT COUNT-180
___ 10:27PM   ___ PTT-26.5 ___
===================
DISCHARGE LABS
===================

___ 12:00AM BLOOD WBC-8.8 RBC-2.45* Hgb-7.7* Hct-24.1* 
MCV-98 MCH-31.4 MCHC-32.0 RDW-17.5* RDWSD-61.3* Plt ___
___ 12:00AM BLOOD Neuts-80* Lymphs-3* Monos-15* Eos-0* 
___ Myelos-2* AbsNeut-7.04* AbsLymp-0.26* AbsMono-1.32* 
AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Plt Smr-NORMAL Plt ___
___ 12:00AM BLOOD ___ PTT-32.5 ___
___ 12:00AM BLOOD Glucose-357* UreaN-16 Creat-2.0* Na-142 
K-4.3 Cl-102 HCO3-27 AnGap-13
___ 12:00AM BLOOD ALT-10 AST-14 AlkPhos-126 TotBili-0.2
___ 10:15AM BLOOD CK-MB-2 cTropnT-0.03*
___ 12:00AM BLOOD Calcium-8.3* Phos-3.7 Mg-2.0 UricAcd-6.8

===================
OTHER PERTINENT LABS
==================
___ 06:49 

Report Comment: 
Source: Line-POC 
COMPLETE BLOOD COUNT 
White Blood Cells 0.3* 4.0 - 10.0 K/uL W 
Red Blood Cells 2.42* 4.6 - 6.1 m/uL W 
Hemoglobin 7.2* 13.7 - 17.5 g/dL W 
Hematocrit 21.8* 40 - 51 % W 
MCV 90 82 - 98 fL W 
MCH 29.8 26 - 32 pg W 
MCHC 33.0 32 - 37 g/dL W 
RDW 14.3 10.5 - 15.5 % W 
RDW-SD 45.6 35.1 - 46.3 fL W 
DIFFERENTIAL 
Neutrophils 19* 34 - 71 % W 
Lymphocytes 61* 19 - 53 % W 
Monocytes 15* 5 - 13 % W 
Eosinophils 0* 1 - 7 % W 
Basophils 4* 0 - 1 % W 
Blasts 1* 0 - 0 % W 
Absolute Neutrophil Count 0.06* 1.6 - 6.1 K/uL W 
Absolute Lymphocyte Count 0.18* 1.2 - 3.7 K/uL W 
Absolute Monocyte Count 0.05* 0.2 - .8 K/uL W 
Absolute Eosinophil Count 0.00* 0.04 - .54 K/uL W 
Absolute Basophil Count 0.01 0.01 - .08 K/uL W 
RED CELL MORPHOLOGY 
RBC Morphology  NORMAL N/A W 
  WITHIN NORMAL LIMITS 
BASIC COAGULATION ___, PTT, PLT, INR) 
Platelet Smear NORMAL NORMAL N/A W 
Platelet Count ___ K/uL 

===============
MICROBIOLOGY
================
___ 9:35 am BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 1:37 pm URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 CFU/mL.

___ 10:49 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
 
___ 9:33 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

   LEGIONELLA CULTURE (Final ___:    NO LEGIONELLA 
ISOLATED. 

___ 12:59 am STOOL     CONSISTENCY: SOFT      Source: 
Stool. 

                            **FINAL REPORT ___

   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

___ Blood cultures x2: Pending

=================
PERTINENT IMAGING
===================
CTA CHEST ___:
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Fairly diffuse ground-glass airspace opacification with a 
gravitational 
distribution as well as interlobular septal thickening is 
slightly increased 
compared to prior suggesting increasing interstitial (early 
alveolar) edema. 
3. Left pleural effusion is slightly increased in size. 
4.   Extensive mediastinal as well as right axillary adenopathy 
appears 
decreased over serial CT studies. 
5. Bilateral pulmonary nodules some of which are stable, others 
decreased in 
size.  No new or enlarging pulmonary nodules. 
6.   Endobronchial plugging, predominantly in the lower lobe 
airways, is 
likely secondary to aspiration/retained secretions. 

TTE ___
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is normal left
ventricular wall thickness with a normal cavity size. There is 
SEVERE regional left ventricular systolic
dysfunction with hypo/akinesis in the mid to apical 
inferolateral, inferior, true apex and apical anterior walls
(see schematic). Overall left ventricular systolic function is 
moderately depressed. The visually estimated
left ventricular ejection fraction is ___. Left ventricular 
cardiac index is normal (>2.5 L/min/m2).
There is Grade II diastolic dysfunction. Normal right 
ventricular cavity size with normal free wall motion. The
aortic sinus diameter is normal for gender with normal ascending 
aorta diameter for gender. The aortic arch
diameter is normal with a normal descending aorta diameter. The 
aortic valve leaflets (?#) are mildly
thickened. There is mild aortic valve stenosis (valve area 
1.5-1.9 cm2). There is no aortic regurgitation. The
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is mild [1+] mitral
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal.
There is trivial tricuspid regurgitation. There is mild 
pulmonary artery systolic hypertension. There is a trivial
pericardial effusion.
IMPRESSION: 1) Severe regional LV systolic dysfunction wtih 
moderate reduction on global LV
function c/w prior myocardial infarction in mid to distal LAD 
territory. 2) Mild aortic stenosis. 3)
Stretched PFO versus very distal in the intreratrial septum 
located ASD with left to right shunting.
It appears that the shunt is not hemodynamically significant 
however due to its location
consideration for further work up could be made with either 
cardiac MRI or TEE.
Compared with the prior TTE ___ , LAD infarct is new. 
Left to right shunt probably present on prior
study however image quality much improved on current study.

Cardiac Angio ___
LM: The left main coronary artery is with 60-70% ostial.
LAD: The left anterior descending coronary artery is heavily 
calcified with diffuse proximal up to 80%
mid at origin large diagonal.
Circ: The circumflex coronary artery is calcified with diffuse 
disease to 50%.
RCA: The right coronary artery is heavily calcified with 
proximal 50%. Faint R-L collaterals are
present.
Complications: There were no clinically significant 
complications.

Thallium rest Viability ___
1. Severe, medium sized resting perfusion defect involving the 
LAD territory 
demonstrating low probability of recovery of function after 
revascularization of 
the apex and distal inferior wall and intermediate probability 
of the distal 
anterior wall and the mid anteroseptum.  The remaining cardiac 
segments 
demonstrate normal tracer uptake, consistent with high 
probability of recovery 
of function after revascularization. 
2. Increased left ventricular cavity size.  

PCI ___
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the
Left Anterior Descending and Left Circumflex systems. There is 
severe calcification in the ostium
extending to the proximal third of the LAD. There is a 20% 
stenosis in the ostium extending to the mid
segment.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is
a 95% stenosis in the proximal segment.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. There is severe
calcification in the proximal segment. There is a 50% stenosis 
in the proximal segment.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is severe
calcification in the proximal and mid segments. There is a 50% 
stenosis in the proximal segment.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
 Normal left and right heart filling pressures.
 Preserved cardiac function.
 Normal pulmonary artery pressure.
 Three vessel coronary artery disease.
 IVUS of LMCA showing eccentric calcium with MLA of 9 mm2. 
Severe heavily calcified disease of proximal LAD succesfully 
treated with rotational atherectomy and 1 DES.

CXR ___:
IMPRESSION: 
There is a right chest wall Port-A-Cath with the tip terminating 
in the
superior vena cava. There is a small left pleural effusion. 
Linear opacities in the left lung base most likely represent a 
combination of subsegmental atelectasis and aspiration 
pneumonitis. There is no new consolidation or pneumothorax. The 
cardiomediastinal silhouette is within normal limits.  There is 
central pulmonary vascular congestion without overt pulmonary 
edema. Atherosclerotic calcifications of the thoracic aorta are 
noted.  There are no acute osseous abnormalities.

Video swallow ___:
IMPRESSION: 
Silent aspiration with thin and nectar thick liquids.

CXR ___:
IMPRESSION: 
There is a right-sided Port-A-Cath with distal tip at the 
cavoatrial junction. There has been worsening of the basilar 
opacities particularly on the left side since previous.  There 
is a small left-sided pleural effusion.  There are no 
pneumothoraces.

CT Chest ___:
IMPRESSION: 
Despite persistent severe central adenopathy there is no 
appreciable
compromise of vital structures.

CT Abdomen/pelvis ___:
IMPRESSION:
1. 1.1 cm retrocrural lymph node which is similar to the CT 
examination from
___ but slightly decreased in size since ___.
2. 2.2 cm soft tissue nodule immediately deep to the umbilicus 
could represent
scar or focal fibrosis, but is nonspecific.  There are no prior 
comparison
studies to assess for stability.
3. There is a 4 mm nonobstructing stone within the midpole of 
the left kidney.
4. Please refer dedicated CT chest for additional findings.

CXR ___:
IMPRESSION: 
In comparison with the study of the ___, the 
cardiomediastinal silhouette is stable.  Continued and possibly 
increasing pulmonary edema.  Opacification at the left base is 
consistent with pleural fluid and atelectatic changes. The right 
hemidiaphragmatic contour is sharply seen, though there may be 
mild blunting of the costophrenic angle. Although all of this 
appearance could be related to pulmonary edema, in the 
appropriate clinical setting it would be difficult to exclude 
superimposed aspiration/pneumonia, especially in the absence of 
a lateral view.

CXR ___:
IMPRESSION: 
Mild interval increase in volume of a left pleural effusion as 
well as
subjacent atelectasis.

___ ___:
IMPRESSION: 
No evidence of deep venous thrombosis in the left lower 
extremity veins.

CXR ___:
IMPRESSION: 
A right chest Wall Port-A-Cath tip projects over the right 
atrium, unchanged. There is a moderate left pleural effusion 
with subjacent opacities which may reflect atelectasis or 
pneumonia.  New pulmonary vascular congestion is present since 
prior. There is no pneumothorax or large right pleural effusion. 
The size of the cardiac silhouette is suboptimally evaluated 
given the abnormalities in the left hemithorax.

PET ___
IMPRESSION: 1. Relative to description of findings from PET-CT 
on ___, there has been interval decrease in FDG avidity 
of supraclavicular, right axillary, mediastinal, and hilar 
lymphadenopathy.  No FDG avid paraesophageal, epicardial, 
retroperitoneal, or internal mammary lymphadenopathy are noted. 
Size of lymph node conglomerates is overall minimally decreased 
compared to CT examinations from ___. 2. Retrocrural 
lymph node measures 1.2 x 1.2 cm with minimal FDG avidity an SUV 
max of 1.7. 3. Minimally FDG avid nodule deep to the umbilicus 
with SUV max of 2.0, nonspecific.  This finding is likely 
chronic and not related to malignancy. Attention on follow-up. 
4. 3 areas of ground-glass opacification and FDG avidity in both 
lungs are new compared to CT chest on ___.  As such, 
infection/inflammation is favored over malignancy.  Attention on 
follow-up is recommended. 5. Patulous, FDG avid 
esophagus is suggestive esophagitis. 6. Interval increase in now 
moderate left pleural effusion. 7. Unchanged 4 mm nonobstructing 
left renal stone. 

 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
Mr. ___ is a ___ yo male with a history of DLBCL s/p recent 
da-EPOCH and 2 cycles of RCHOP, CAD s/p prior PCI, PAD, CKD, 
DM2, HTN. He was recently discharged from the ___ service on 
___ after a lengthy stay c/b pleural effusion, PICC 
associated DVT, E coli bacteremia, VRE UTI, and L vocal cord 
paralysis. On ___ had syncopal event at home and presented to 
___ where he was found to have an NSTEMI and newly reduced EF to 
35% and emergent cardiac angiogram showing 3VD. He was 
transferred to ___ on ___ for possible CABG. At ___ his HFrEF 
medications were adjusted within the limitations of his low SBPs 
and intermittent orthostatic hypotension. He was worked up with 
viability testing but C-surg evaluated him and he was determined 
not to be a candidate for CABG based on active DLBCL. The 
interventional cardiology team was consulted and on ___ he 
underwent PCI with DES to LAD without complication. His course 
was complicated by few days of neutropenia requiring neutropenic 
precautions but with ANC recovered with neupogen. Per primary 
oncologist's recommendation, patient was transferred to bone 
marrow transplant team for further chemotherapy. His cycle was 
delayed due to severe orthostatic hypotension, but he was 
eventually given rituximab ___, and started on CEP ___. He 
tolerated chemotherapy well, and was kept through his nadir. His 
course was complicated by neutropenic fever, for which he 
completed a seven day course of antibiotics.

====================
TRANSITIONAL ISSUES:
====================
[ ] DAPT: needs to stay on dual antiplatelet therapy for at 
least one year for stent placement on ___. If there is need 
to stop prior, please contact ___, MD 
cardiology attending, for recommendations 
[ ] Platelets must remain above 30 for ___ year in order to 
continue DAPT 
[ ] Consider adding ___ for GDMT iso HFrEF if BP 
improves and he no longer requires midodrine
[ ] Close follow up of blood pressures given he was 
intermittently orthostatic during his admission.
[ ] If weight increases by > 3 lb, increase torsemide to 60 mg 
daily and repeat chemistry panel the following day. If weight 
decreases by more than 3 lb, decrease to torsemide 20 mg daily. 
Please continue to trend weights/exam and titrate diuretics 
accordingly until cardiology follow up.
[ ] Decrease diuretic dose if Cr rises. Recommend at least 
weekly BMP until cardiology follow up.
[ ] Daily standing weights. 
[ ] CBC, BMP ___
[ ] Aspiration risk: was followed by speech/swallow during 
admission who noted he has risk of silent aspiration. 
 Speech and swallow recs:
 1. Patient was willing to accept risk of aspiration, so diet 
was advanced to regular with thin liquids.
 2. Meds: whole with applesauce
 3. Aspiration Precautions: 
 - 1:1 supervision during meals
 - with liquids: 
 - take a sip and hold the sip in your mouth
 - breathe in through your nose and hold your breath hard, like 
you're trying to lift something heavy
 - swallow with your breath held 
 - after every ___ sips of liquids, cough and swallow your 
saliva. 
 - Alternate bites and sips
 - Remain upright for at least ___ minutes after meals
 4. Oral care TID

- Discharge weight: 142 lb 
- Discharge creatinine: 2.0 
- Discharge diuretic: 40 mg Torsemide PO daily

# CODE: DNR/DNI
# CONTACT: ___ Phone: ___ 

====================
ACUTE ISSUES:
====================
#High Grade Diffuse Large B Cell Lymphoma w/ BCL2 Rearrangement
#Neutropenia, ANC 600 ___, now resolved
Mr. ___ was initially diagnosed on ___ via 
thoracentesis and R axillary core biopsy. He follows with Dr. 
___ and is s/p da-EPOCH with intrathecal 
methotrexate, and 2 cycles of CHOP. After admission to ___ due 
to NSTEMI (see below), patient was transferred to ___ for 
further chemotherapy, which was delayed due to severe 
orthostatic hypotension and in light of recent NSTEMI. Patient 
was given rituximab ___, and started CEP ___. Vincristine was 
not given due to likely autonomic dysfunction causing 
orthostatic hypotension and anthracyclines were avoided given 
HFrEF. Patient tolerated the chemotherapy well, and was kept 
through nadir. He was continued on his prophylactic acyclovir 
and atovaquone. Repeat PET on ___ showed substantial decrease 
in FDG uptake, suggesting good response to chemo. 

#Febrile neutropenia
While neutropenic, he developed a fever without a localizing 
source. Aspiration pneumonia was possible given high aspiration 
risk but CXR was without major changes. GI infection was 
possible given diarrhea but C.diff/stool cultures were negative, 
he was without abdominal pain, and the diarrhea had been 
improving. Soft tissue/skin infection was also possible with L 
upper thigh rash, but rash had also been improving. Cultures 
were negative. He was started on vanc/cefepime/flagyl, and 
ultimately transitioned to Levaquin. He then completed a seven 
day course of antibiotics. 

#Orthostatic Hypotension
He was having baseline SBP 90-100s, which would lower to SBP 
60-70s upon standing. The ddx for his orthostatic hypotension 
was thought to be due to poor PO intake, autonomic dysfunction 
(amitriptyline, carbidopa/levodopa, diabetes), and vincristine. 
He was started on midodrine 7.5mg TID, medications that could 
effect BPs (amitriptyline and carbidopa/levodopa) were 
discontinued, and vincristine was avoided. His AM cortisol was 
within normal limits. His SBPs improved and were in the ___ 
upon discharge. 

#NSTEMI 
#CAD 
He presented to ___ with syncope and was found to have elevated 
troponin with non-specific ST wave changes, had a TTE with new 
EF 35% so had emergent coronary angiogram demonstrating 3vdz 
(ostial left main (70%) and mid-80% tubular stenosis of the 
LAD.) It was unclear if underlying CAD had acutely worsened in 
the setting of recent cardiotoxic chemotherapy including 
doxorubicin. He was worked up with thallium viability testing 
but C-surg evaluated him and he was determined to be not a 
candidate for CABG based on active DLBCL. The interventional 
cardiology team was consulted and on ___ he underwent PCI via 
right femoral access with IVUS of LMCA showing eccentric calcium 
with MLA of 9 mm2. He had severe heavily calcified disease of 
proximal LAD successfully treated with rotational atherectomy 
and 1 DES. He was started on DAPT (minimum ___ year duration). He 
was continued on atorvastatin 80mg daily. He was not able to 
tolerate ___ in setting of low SBPs.

#Acute Decompensated HFrEF 
#ischemic cardiomyopthy
He was found to have with a newly reduced EF to 35% from prior 
65% with WMA at ___. The etiology of heart failure was likely 
ischemic given NSTEMI and cardiac angiogram showed three vessel 
disease. However he had also recently received anthracyclines as 
a part of his chemotherapy regimen which could have contributed. 
During his stay he was treated with IV Lasix for preload mgmt 
and transitioned to Lasix 20mg PO on discharge. For afterload 
reduction he was treated with Carvedilol but given intermittent 
orthostatic hypotension with reported lightheadedness, this was 
changed to metoprolol succinate on ___. He was not started on 
an ___ in setting of poor renal function and low blood 
pressures, but this could be considered as an outpatient if his 
creatinine and BP improves. He was found to be significantly 
volume overloaded, and was diuresed with 80 mg IV Lasix daily 
for four days prior to being transitioned to 40mg torsemide 
daily. 

# Left vocal cord paralysis
# Aspiration risk
During his prior admission he was noted to have a hoarse voice 
but without respiratory symptoms aside from coughing. He was 
evaluated by ENT who found left vocal cord paralysis in the 
setting of hilar and mediastinal adenopathy and soft tissue 
encasing the trachea. During the current admission he was 
followed by speech and swallow who knew him from his last 
admission. He did not present with overt s/sx concerning for 
aspiration, but he has a history of SILENT aspiration (not 
coughing when aspirating). He was judged to be at an elevated 
risk of aspiration. Speech/swallow recommended nectar thick 
liquids and ground foods with 1:1 sitting. He was seen by ENT on 
___ for vocal cord injection. SLP repeat evaluation on ___ 
showed moderate improvement, and patient was switched to thin 
liquid and regular solid diet. 

====================
CHRONIC ISSUES:
====================
# E. coli Bacteremia:
He had spiked a fever to 101 on ___ during his prior admission 
and blood cultures were positive for E.coli. He was started on 
cefepime, narrowed to ceftriaxone, given sensitive to E.coli. He 
was treated with ceftriaxone from ___. His urine cultures 
on ___ and ___ grew yeast, however he was asymptomatic and was 
not treated with antifungals per oncology recs.

#Persistent RUE swelling:
He had some swelling of his RUE at the beginning of his 
admission. He had a repeat RUE US ___ with no DVT. 

#CKD 
Unclear baseline as previously noted to be ~2, but Cr. was 1.6 
on admission thought to be ___ cardiorenal syndrome in setting 
of volume overload. His Cr was monitored daily and on discharge 
was 2.0

#T2DM: treated with fixed Lantus dose and ISS

#HX PVD s/p left femoral peroneal bypass: was continued on 
aspirin 

#Restless Leg Syndrome: Discontinued home carbidopa/levodopa due 
to possible orthostatic hypotension effect. 

#Depression: Tapered off amitriptyline due to possible 
orthostatic hypotension effect. 

#OSA: Continued home CPAP while inpatient.

#Allergies: Held home cetirizine for confusion. 

CORE MEASURES: 
#HCP/Contact: ___
 Phone: ___ 
#Code: DNR/DNI confirmed 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 50 mg PO QHS 
2. Carbidopa-Levodopa (___) 1 TAB PO DAILY 
3. Cetirizine 10 mg PO DAILY 
4. Temazepam 30 mg PO QHS 
5. Acyclovir 400 mg PO Q12H 
6. Atovaquone Suspension 1500 mg PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Tiotropium Bromide 1 CAP IH DAILY 
9. Filgrastim 300 mcg SC Q24H 
10. Allopurinol ___ mg PO DAILY 
11. CefTRIAXone 2 gm IV Q 24H 
12. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
13. Atorvastatin 20 mg PO QPM 
14. Metoprolol Succinate XL 50 mg PO DAILY 
15. NovoLIN ___ (insulin NPH and regular human) 100 unit/mL 
(70-30) subcutaneous BID 
16. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
17. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Clopidogrel 75 mg PO DAILY  
3.  Famotidine 20 mg PO Q24H  
4.  Glargine 6 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Midodrine 7.5 mg PO TID  
7.  Torsemide 40 mg PO DAILY  
8.  Atorvastatin 80 mg PO QPM  
9.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever  
10.  Acyclovir 400 mg PO Q12H  
11.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath  
12.  Atovaquone Suspension 1500 mg PO DAILY  
13.  Cetirizine 10 mg PO DAILY  
14.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
15.  Tiotropium Bromide 1 CAP IH DAILY  
16. HELD- Temazepam 30 mg PO QHS  This medication was held. Do 
not restart Temazepam until told to by your doctor
17.Outpatient Lab Work
CBC, ___
ICD: 428.0
Contact Info: ___, ___ 
___ Hematology/Oncology 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
CAD with 3vessel disease
NSTEMI
Acute HFrEF exacerbation

Secondary Diagnosis:
DLBCL

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you passed out when 
you were at home and had a heart attack.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were given medicine to help remove the excess fluid from 
your body.
- You had an ultrasound of your heart that showed your heart is 
not pumping as well as it should.
- You had a cardiac angiogram study to assess the blood vessels 
in your heart. The test showed that you had blockages in the 
vessels in your heart.
- You were seen by the cardiac (heart) surgeons who decided you 
were not a candidate for cardiac surgery.
- You had a viability scan of your heart to assess the heart 
muscle. 
- You were seen by the interventional cardiology team who were 
able to put a stent in one of the blood vessels in your heart.
- Your oncologist Dr. ___ on your care and came 
to see you in the hospital and recommended chemotherapy. 
- You were then transferred to the bone marrow transplant 
service and started on chemotherapy. 
- You developed a fever when your cell counts were low, and we 
started you on broad-spectrum antibiotics. 
- You continued to have low blood pressures with standing, that 
improved with a medication called midodrine.  

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Weigh yourself every morning, call your doctor if your weight 
goes up more than 3 lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- Your discharge weight: ***  . You should use this as your 
baseline after you leave the hospital.  

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___